US06245790B1
To a methanol solution (7 ml) of methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}benzoate (1.15 g) was added 1N aqueous sodium hydroxide solution (4 ml). The solution was stirred overnight at room temperature. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed with brine. After dried over MgSO4, the organic solvent was evaporated in vacuo to afford 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}-benzoic acid (1.02 g).

reactant | methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}benzoate | 1.15 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C(=O)OC)C=CC1 | C29H25NO3
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}-benzoic acid | 1.02 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C(=O)O)C=CC1 | C28H23NO3
